US07314885B2
4-Formyl-1-methanesulfonyl-1H-pyrrole-2-carboxylic acid methyl ester:
To a solution of 5-trichloroacetyl-1H-pyrrole-3-carbaldehyde (3.6 g, 14.97 mmol) in MeOH (60 mL) was added triethylamine (2 mL). The reaction mixture was stirred at room temperature for 3 hours. The solvent was removed and the residue was dried on the vacuum pump for 6 hours. This crude product was then dissolved in 60 mL of anhydrous THF. To the resulting solution was added NaH (720 mg, 18 mmol) at room temperature. The suspension was then stirred at room temperature for 1 hour before addition of MsCl (2.6 g, 22.70 mmol). The mixture was left at room temperature overnight and then poured into 2N HCl solution (100 mL). The aqueous solution was extracted with EtOAc (3×60 mL), the combined organic layers were dried over MgSO4, the solvent was removed by evaporation, and the residue was purified by flash column eluting with 30% EtOAc/hexanes to afford the title compound as a white solid (2.85 g, 82%). 1H NMR (500 MHz, DMSO-d6) δ9.88 (s, 1H), 8.40 (s, 1H), 7.40 (s, 1H), 3.96 (s, 3H), 3.85 (s, 3H) ppm. MS (ES+): m/e=232.1 (M+H); LC/Method A/2.61 min.

reactant | 5-trichloroacetyl-1H-pyrrole-3-carbaldehyde | 14.97 mmol, 3.6 g | ClC(C(=O)C1=CC(=CN1)C=O)(Cl)Cl | C7H4Cl3NO2
reactant | NaH | 18 mmol, 720 mg | [H-].[Na+]
reactant | MsCl | 22.70 mmol, 2.6 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 2N, 100 mL | Cl | ClH
reactant | MeOH | 60 mL | CO | CH4O
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
product | 4-Formyl-1-methanesulfonyl-1H-pyrrole-2-carboxylic acid methyl ester | 2.85 g, 82% | COC(=O)C=1N(C=C(C1)C=O)S(=O)(=O)C | C8H9NO5S
